US08350037B2
3-Bromo-2-(methylsulphanyl)thieno[2,3-b]pyridine
n-Butyllithium (3.25 mL, 1.7M in hexanes, 5.2 mmol) was added to a cooled solution of diisopropylamine (0.74 mL, 5.2 mmol) in THF (15 mL) at −78° C. The reaction mixture was allowed to warm to room temperature and stirred for 30 minutes. The reaction was cooled to 0° C. and 3-bromothieno[2,3-b]pyridine (prepared by the method of Klemm L. H. et al., Journal of Heterocyclic Chemistry, 1974, 11(2), 205-209) (1 g, 4.7 mmol) added. After stirring for a further 20 minutes dimethyl disulphide (443 mg, 0.42 mL, 4.7 mmol) was added, and the reaction mixture was allowed to warm to room temperature and stirred for 1 h. The reaction was quenched with water, extracted into DCM, dried (sodium sulphate), filtered and concentrated in vacuo. Chromatography (silica; DCM) yielded the title compound as a pale yellow solid (850 mg). δH (DMSO-d6) 8.57 (1H, dd, J 4.7, 1.5 Hz), 8.00 (1H, m), 7.54 (1H, dd, J 8.1, 4.5 Hz), 2.70 (3H, m). LCMS (pH 3) RT 2.64 minutes, (ES+) 259/261 (M+H)+.

reactant | n-Butyllithium | 5.2 mmol, 1.7M, 3.25 mL | C(CCC)[Li]
reactant | diisopropylamine | 5.2 mmol, 0.74 mL | C(C)(C)NC(C)C | C6H15N
reactant | 3-bromothieno[2,3-b]pyridine | BrC1=CSC2=NC=CC=C21 | C7H4BrNS
reactant | dimethyl disulphide | 4.7 mmol, 0.42 mL, 443 mg | CSSC | C2H6S2
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 3-Bromo-2-(methylsulphanyl)thieno[2,3-b]pyridine | 850 mg | BrC1=C(SC2=NC=CC=C21)SC | C8H6BrNS2
